US07709647B2
1F. (S)-3-Amino-1,2,3,4-tetrahydroquinoline-6-carbonitrile
To a solution of (S)-N-((S)-6-cyano-1,2,3,4-tetrahydroquinolin-3-yl)-2-hydroxy-2-phenylacetamide (2.5 g, 8.14 mmol), prepared as described in Example 1E, in EtOH (25 mL) was added 15% aqueous sulfuric acid (25 mL). The resulting mixture was refluxed overnight, then cooled to RT. After removal of most of the EtOH, the mixture was diluted with water (200 mL), extracted with CH2Cl2 (3×50 mL). The aqueous layer was basified with 4N NaOH to pH=10, then extracted with CH2Cl2 (3×50 mL). The combined organics were washed with saturated aqueous NaCl dried (Na2SO4) and concentrated. The residue was crystallized from EtOAc/hexanes to afford the title compound (1.026 g, 73% yield). LC/MS (method A): retention time=0.95 min, (M+H)+=174.

reactant | (S)-N-((S)-6-cyano-1,2,3,4-tetrahydroquinolin-3-yl)-2-hydroxy-2-phenylacetamide | 8.14 mmol, 2.5 g | C(#N)C=1C=C2C[C@@H](CNC2=CC1)NC([C@H](C1=CC=CC=C1)O)=O | C18H17N3O2
reactant | sulfuric acid | 25 mL | S(O)(O)(=O)=O | H2O4S
solvent | EtOH | 25 mL | CCO | C2H6O
product | (S)-3-Amino-1,2,3,4-tetrahydroquinoline-6-carbonitrile | 1.026 g, 73% yield | N[C@@H]1CNC2=CC=C(C=C2C1)C#N | C10H11N3
